US07491722B2
5-Acetyl-2-ethyl-6-phenyl-4-(9H-purin-6-ylamino)pyridazin-3(2H)-one
To a stirred solution of 250 mg (0.870 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (12 mL), adenine (235 mg, 1.740 mmol) was added. The resulting mixture was stirred and refluxed during two days. The solvent was evaporated and the residue purified by column chromatography (silica gel, dichloromethane/methanol 95:5) and preparative HPLC/MS to yield the title compound (4.4 mg, 1.4% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.870 mmol, 250 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | adenine | 1.740 mmol, 235 mg | N1=CN=C2N=CNC2=C1N | C5H5N5
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-6-phenyl-4-(9H-purin-6-ylamino)pyridazin-3(2H)-one | 4.4 mg, 1.4% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=C2N=CNC2=NC=N1 | C19H17N7O2
